US05073646
b,c) 1-Diphenylmethyl-3-hydroxy-3-methylazetidine. 12.5 g (117.3 mmol) of 1-chloro-2,3-epoxy-2-methylpropane are added to a solution of 21.5 g (117.3 mmol) of diphenylmethylamine dissolved in 50 ml of methanol, and the mixture is left for 3 days at room temperature and subsequently for 3 days under reflux. The methanol is evaporated off under reduced pressure, the resulting solid is washed with acetone and filtered off, and 28.8 g (85%) of 1-diphenylmethyl-3-hydroxy-3-methylazetidine hydrochloride, melting point 187°-197° C., are obtained.

reactant | 1-Diphenylmethyl-3-hydroxy-3-methylazetidine | C1(=CC=CC=C1)C(N1CC(C1)(C)O)C1=CC=CC=C1 | C17H19NO
reactant | 1-chloro-2,3-epoxy-2-methylpropane | 117.3 mmol, 12.5 g | ClCC1(CO1)C | C4H7ClO
reactant | diphenylmethylamine | 117.3 mmol, 21.5 g | C1(=CC=CC=C1)C(C1=CC=CC=C1)N | C13H13N
solvent | methanol | 50 ml | CO | CH4O
product | 1-diphenylmethyl-3-hydroxy-3-methylazetidine hydrochloride | 28.8 g, 85% | Cl.C1(=CC=CC=C1)C(N1CC(C1)(C)O)C1=CC=CC=C1 | InChI=1S/C17H19NO.ClH/c1-17(19)12-18(13-17)16(14-8-4-2-5-9-14)15-10-6-3-7-11-15;/h2-11,16,19H,12-13H2,1H3;1H
